US05102667
N,N'-Carbonyldiimidazole (1.13 g) is added to a solution of 2-(1,3-dithiin-5-yl)acetic acid (1.23 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 20 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.3 g) and triethylamine (0.98 cc) in dichloromethane (40 cc) is then added. The reaction mixture is stirred for 16 hours at 20° C. The reaction mixture is washed with distilled water (3×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from acetonitrile (80 cc). The crystals are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-2-[2-(1,3-dithiin-5-yl)acetyl]-4-perhydroisoindolone (1.94 g) melting at 211° C. is obtained.

reactant | 2-(1,3-dithiin-5-yl)acetic acid | 1.23 g | S1CSCC(=C1)CC(=O)O | C6H8O2S2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.3 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.98 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 40 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[2-(1,3-dithiin-5-yl)acetyl]-4-perhydroisoindolone | 1.94 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC=1CSCSC1)=O)=O)C1=CC=CC=C1 | C26H27NO2S2
